US05071853
Cis-1,9,10,10a-tetrahydro-4a-(4H)-phenanthrenecarboxylic acid
To a solution of 3,4-dihydronaphthalene-1-carboxylic acid (29.7 g) in toluene (75 ml) was added butadiene (16 g) and a trace of butyrated hydroxy toluene (BHT). The solution was heated to 180° for 18 hours in a sealed reactor, then chromatographed twice over silica gel. Recrystallization from ethyl acetate/heptane affords the title compound as a colorless crystalline solid (10.5 g). The recovered starting material was rereacted with butadiene to afford, after workup, additional title product (8.0 g).

reactant | 3,4-dihydronaphthalene-1-carboxylic acid | 29.7 g | C1(=CCCC2=CC=CC=C12)C(=O)O | C11H10O2
reactant | butadiene | 16 g | C=CC=C | C4H6
reactant | hydroxy toluene | OC1=C(C=CC=C1)C | C7H8O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Cis-1,9,10,10a-tetrahydro-4a-(4H)-phenanthrenecarboxylic acid | 10.5 g | C1C=CC[C@@]2(C3=CC=CC=C3CC[C@H]12)C(=O)O | C15H16O2
